US07652055B2
a) (3,5-Dichloro-phenylsulfanyl)-acetic acid ethyl ester
To a solution of 3,5-dichloro-thiophenol (0.50 g, 2.71 mmol) in dichloromethane (8 ml) at 0° C. were added triethylamine (0.49 ml, 3.55 mmol) and a solution of ethyl bromoacetate (0.33 ml, 2.93 mmol) in dichloromethane (2 ml). The resulting solution was stirred at 0° C. for 20 min and then at room temperature for 1 hour. The reaction mixture was then washed sequentially with water and with 1 N aq hydrochloric acid. The organic phase was dried over sodium sulphate, filtered and concentrated in vacuo to yield a light yellow oil (0.72 g, 100%); 1H NMR (300 MHz, CDCl3): 7.26 (2H, d), 7.20 (1H, t), 4.21 (2H, q), 3.65 (2H, s), 1.26 (3H, t).

reactant | 3,5-dichloro-thiophenol | 2.71 mmol, 0.50 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | triethylamine | 3.55 mmol, 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 2.93 mmol, 0.33 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (3,5-Dichloro-phenylsulfanyl)-acetic acid ethyl ester | 0.72 g, 100% | C(C)OC(CSC1=CC(=CC(=C1)Cl)Cl)=O | C10H10Cl2O2S
